US05922737
Synthesis of 2-methanesulfonyloxyethyl 2,2,2-trifluoroethyl ether
Combine 2-hydroxyethyl 2,2,2-trifluoroethyl ether (0.5 mmol) and N,N-diisopropylethylamine (1 mmol) in dichloromethane (20 mL). Cool in a ice-bath. Add dropwise, methanesulfonyl chloride (0.6 mmol). After 2 hours, extract with 1M hydrochloric acid solution and 5% sodium bicarbonate solution. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to give the title compound.

reactant | 2-hydroxyethyl 2,2,2-trifluoroethyl ether | 0.5 mmol | FC(COCCO)(F)F | C4H7F3O2
reactant | N,N-diisopropylethylamine | 1 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 0.6 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-methanesulfonyloxyethyl 2,2,2-trifluoroethyl ether | FC(COCCOS(=O)(=O)C)(F)F | C5H9F3O4S
